US08076355B2
7-Bromo-1-benzofuran-2-carboxylic acid
10 g (49.75 mmol) of 3-bromo-2-hydroxybenzaldehyde and 1.84 g (4.97 mmol) of tetra-N-butylammonium iodide are, together with 27.5 g (199.0 mmol) of anhydrous potassium carbonate, initially charged. 24.3 g (223.86 mmol) of methyl chloroacetate are added. The reaction mixture is heated at 130° C. for 4 h and then cooled to 0° C. using an ice bath. 100 ml of THF and 16.75 g (298.5 mmol) of potassium hydroxide in 100 ml of water are added, the mixture is then stirred at 40° C. for 4 h. The solvent is removed under reduced pressure. The residue is diluted with water and acidified with conc. hydrochloric acid. The product is purified on silica gel 60 (mobile phase: toluene/ethyl acetate/acetic acid 40:10:1). The solvent is removed under reduced pressure. Any last solvent residues are finally removed under high vacuum. Fine purification is carried out by preparative HPLC. 303 mg (2.5% of theory) of the title compound are isolated.

reactant | 3-bromo-2-hydroxybenzaldehyde | 49.75 mmol, 10 g | BrC=1C(=C(C=O)C=CC1)O | C7H5BrO2
reactant | potassium carbonate | 199.0 mmol, 27.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chloroacetate | 223.86 mmol, 24.3 g | ClCC(=O)OC | C3H5ClO2
reactant | potassium hydroxide | 298.5 mmol, 16.75 g | [OH-].[K+]
solvent | water | 100 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 7-Bromo-1-benzofuran-2-carboxylic acid | BrC1=CC=CC=2C=C(OC21)C(=O)O | C9H5BrO3
